US06291514B1
Methyl 4-[4-(3-methoxyphenyl)(1,3-thiazol-2-yl)-5-methylthiothiophene-2-carboxylate: 32 mg (0.133 mmol) of methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate (Maybridge Chemical Co. LTD., Cornwall, U.K.) was dissolved in 2 mL of reagent grade acetone. 3′-Methoxy-2-bromo acetophenone (0.155 mmol; 36 mg; Aldrich Chemical Co.) was added and the solution was allowed to reflux for 2.5 h. The solution was allowed to cool and a solid was filtered and washed with methanol and dried in vacuo. The solid was purified on 1 mm silica plate eluting with 25% ethyl acetate/hexane to afford 31 mg (63% yield) of methyl 4-[4-(3-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate.

reactant | methyl 4-(aminothioxomethyl)-5-methylthiothiophene-2-carboxylate | 0.133 mmol, 32 mg | NC(C=1C=C(SC1C)C(=S)OC)=S | C8H9NOS3
reactant | 3′-Methoxy-2-bromo acetophenone | 0.155 mmol, 36 mg | COC=1C=C(C=CC1)C(CBr)=O | C9H9BrO2
solvent | acetone | CC(=O)C | C3H6O
product | methyl 4-[4-(3-methoxyphenyl)(1,3-thiazol-2-yl)]-5-methylthiothiophene-2-carboxylate | 31 mg, 63% yield | COC=1C=C(C=CC1)C=1N=C(SC1)C=1C=C(SC1C)C(=S)OC | C17H15NO2S3
